US06903114B2
(a) 2,3-Dimethoxy-naphthalene-1-carbaldehyde
n-Butyl lithium in hexane (1.6 N, 31.3 ml) was gradually added to a solution of 2,3-dimethoxynaphthalene (9.4 g) and N,N,N′,N′-tetramethylethylenediamine (7.4 ml) in ether (150 ml) under argon at 0° C. The reaction mixture was stirred at room temperature for two hours, cooled to 0° C. and DMF (7.3 g) in ether (20 ml) added. The reaction mixture was stirred at room temperature overnight and poured in ice water. The product was extracted with ether, washed with water, dried, evaporated and recrystallized from ether. Yield: 4.2 g.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 2,3-dimethoxynaphthalene | 9.4 g | COC1=CC2=CC=CC=C2C=C1OC | C12H12O2
reactant | N,N,N′,N′-tetramethylethylenediamine | 7.4 ml | CN(CCN(C)C)C | C6H16N2
reactant | DMF | 7.3 g | CN(C)C=O | C3H7NO
solvent | hexane | 1.6 N, 31.3 ml | CCCCCC | C6H14
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2,3-Dimethoxy-naphthalene-1-carbaldehyde | COC1=C(C2=CC=CC=C2C=C1OC)C=O | C13H12O3
